US06521757B1
2-Iodo5-isopropoxy-4-methoxybenzaldehyde:
Silver trifluoroacetate (12.3 g, 56.7 mmol) was added to a solution of isovanillin isopropyl ether (10.0 g, 51.5 mmol) in dry chloroform (120 mL) under nitrogen and the resultant slurry stirred and heated to 61° C. Iodine (14.4 g, 56.7 mmol) was then added portionwise (6 portions) over 0.6 h and the reaction allowed to reflux for a further 6.5 h. The reaction mixture was then cooled and filtered, rinsing with chloroform (50 mL). The filtrate was washed with Na2S2O5 (10% solution in water, 150 mL), NaHCO3 (sat. in water, 150 mL) and water (150 mL) dried (MgSO4) and concentrated under vacuum. The solid residue was suspended in hexane (200 mL) and stirred vigoursly for 1 h, cooled in an ice bath for 1 h and filtered rinsing with ice cold hexane (200 mL) to give the title compound as a cream solid (15.3 g, 93%) mp 75-6° C. IR (KBr disc, cm−1) 3072, 2978, 2932, 1673, 1581, 1503, 1438, 1385, 1332, 1260, 1215, 1174, 1157, 1133, 1105, 1024, 939. 1H NMR 300 MHz, CDCl3) δ9.77 (s, 1H), 7.34 (s, 1H), 7.24 (s, 1H), 4.57 (septet, J=6.0 Hz, 1H), 3.86 (s,3H), 1.31 (d, J=6.0 Hz, 6H). 13C NMR+APT (75.5 MH, CDCl3) δ194.7(−), 155.5(+), 47.9 (+), 128.2 (+), 122.2 (−), 114.1 (−), 110.8 (+), 92.4 (+), 71.3 (−), 56.4 (−), 21.77 (−), MS (70eV) m/z (%): 320 (M+•, 43), 278 (100), 249 (17), 207 (12), 150 (40). Anal. Calcd for C11H13O3I: C, 41.27; H, 4.09; I, 39.64. Found: C, 41.06; H, 3.80; I, 39.59.

reactant | isovanillin isopropyl ether | 51.5 mmol, 10.0 g | C(C)(C)OC=1C=C(C=O)C=CC1OC | C11H14O3
reactant | Iodine | 56.7 mmol, 14.4 g | II | I2
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Silver trifluoroacetate | 56.7 mmol, 12.3 g | FC(C(=O)[O-])(F)F.[Ag+]
product | 2-Iodo5-isopropoxy-4-methoxybenzaldehyde | 15.3 g, 93% | IC1=C(C=O)C=C(C(=C1)OC)OC(C)C | C11H13IO3
